US06596772B1
Dissolved 1.2 g (4 mmol) of 6-Hydroxymethyl-2-naphthalenecarboxylic acid benzyl ester in 100 ml of CH2Cl2, slowly added 5.2 g of MnO2 (60 mmol) and stirred at room temperature for 2 hours, then filtered through Ceilite. The Celite was washed with CH2Cl2 and combined organics taken to dryness. The oily residue was solidified with EtOAc/Hexanes (1:1) and collected by vacuum filtration, washed with small amount of methanol, dried to get 1.2 g of 6-Formyl-2-naphthalenecarboxylic acid benzyl ester. 1H NMR (400 MHz, DMSO-d6): δ 10.192 (s, 1H, —CHO), 8.754 (s, 1H, Ar—H), 8.667 (s, 1H, Ar—H), 8.327(t, J=9.4, 2H, Ar—H), 8.142(dd, J=1.6&7.0 Hz, 1H, Ar—H), 7.987-7.962 (dd, J=1.6&7.0 Hz, 1H, Ar—H), 7.544-7.526 (m, 2H, Ar—H), 7454-7.375 (m, 3H, Ar—H), 5.442 (s, 2H, —COOCH2—), MS m/e 289[M+−1].

reactant | 6-Hydroxymethyl-2-naphthalenecarboxylic acid benzyl ester | 4 mmol, 1.2 g | C(C1=CC=CC=C1)OC(=O)C1=CC2=CC=C(C=C2C=C1)CO | C19H16O3
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 60 mmol, 5.2 g | O=[Mn]=O
product | 6-Formyl-2-naphthalenecarboxylic acid benzyl ester | 1.2 g | C(C1=CC=CC=C1)OC(=O)C1=CC2=CC=C(C=C2C=C1)C=O | C19H14O3
